US05128355
A solution of 7.31 g of Methyl 4'-methylbiphenyl-3-carboxylate, 5.75 g of N-bromosuccinimide, 0.125 g of azo(bisisobutyronitrile), and 500 mL of carbon tetrachloride was refluxed for 3 hours. After cooling to room temperature the resulting suspension was filtered and then concentrated in vacuo to provide 9.90 g of crude methyl 4'-bromomethylbiphenyl-3-carboxylate which was used in a subsequent reaction without further purification; NMR (200 MHz, CDCl3): δ 8.28 (s, 1H); 8.05 (d, 1H); 7.79 (d, 1H); 7.67-7.48 (m, 5H); 4.55 (s, 2H); 3.98 (s, 3H).

reactant | Methyl 4'-methylbiphenyl-3-carboxylate | 7.31 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC | C15H14O2
reactant | N-bromosuccinimide | 5.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | azo(bisisobutyronitrile) | 0.125 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4'-bromomethylbiphenyl-3-carboxylate | 9.90 g | BrCC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC | C15H13BrO2
